US09282743B2
Step 3: Preparation of 3-Methoxy-8-(2,4,6-trimethyl-phenyl)-tetrahydro-pyrazolo[1,2-a][1,2,5]triazepine-7,9-dione (compound P2.1)
To a solution of 5-methoxy-2-[2-(2,4,6-trimethyl-phenyl)-acetyl]-[1,2,5]triazepane-1-carboxylic acid ethyl ester (1.035 g, 2.85 mmol) in absolute dimethylformamide (12 ml) at room temperature in a flame-dried flask under argon was added potassium tert-butoxide (479 mg, 4.27 mmol; weighed under argon atmosphere) in three portions. The reaction mixture was stirred for 1.5 hours, poured on ice, the aqueous layer extracted twice with ethyl acetate and the combined organic layers discarded. The aqueous alkaline phase was acidified with cooling to pH 2-3 by addition of a 1N HCl solution and the product thoroughly extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate and concentrated in vacuo. Yield: 500 mg of 3-methoxy-8-(2,4,6-trimethyl-phenyl)-tetrahydro-pyrazolo[1,2-a][1,2,5]triazepine-7,9-dione (compound P2.1) as a solid with a purity of 91% by LC-MS. This material (120 mg) was triturated in diethyl ether, filtered and dried to afford 110 mg of clean product, mp 229-230° C.

reactant | 5-methoxy-2-[2-(2,4,6-trimethyl-phenyl)-acetyl]-[1,2,5]triazepane-1-carboxylic acid ethyl ester | 2.85 mmol, 1.035 g | C(C)OC(=O)N1N(CCN(CC1)OC)C(CC1=C(C=C(C=C1C)C)C)=O | C19H29N3O4
reactant | potassium tert-butoxide | 4.27 mmol, 479 mg | CC(C)([O-])C.[K+]
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | 3-Methoxy-8-(2,4,6-trimethyl-phenyl)-tetrahydro-pyrazolo[1,2-a][1,2,5]triazepine-7,9-dione | 110 mg | CON1CCN2N(CC1)C(C(C2=O)C2=C(C=C(C=C2C)C)C)=O | C17H23N3O3
